US09193722B2
(S)-1,4-di-tert-butyl 2-(1-hydroxycyclopropyl)piperazine-1,4-dicarboxylate
To a solution of (S)-1,4-di-tert-butyl 2-methyl piperazine-1,2,4-tricarboxylate (3 g; 8.7 mmol) and titanium tetraisopropoxide (0.77 ml; 2.6 mmol), cooled to 0° C. under N2, a 3M solution of ethyl magnesium bromide in THF (8.7 ml; 26 mmol) was added dropwise over 45 minutes. The reaction mixture was left to warm up to room temperature and stirred for 18 hours. The reaction mixture was quenched with a 1M hydrochloric acid aqueous solution. The reaction mixture was diluted with water. Extractions were carried out with ethyl acetate. The combined organics were backwashed with a saturated sodium bicarbonate aqueous solution and brine. The organic was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified on silica gel (40 g), eluting with petrol/ethyl acetate (0 to 40%). The product was obtained as colourless oil (1.4 g; 50%). 1H NMR (CDCl3) 1.37-1.41 (18H, m), 1.52 (4H, s), 2.80-2.90 (1H, m), 3.10-3.40 (2H, m), 3.50-3.70 (2H, m), 3.80-4.20 (2H, m).

reactant | (S)-1,4-di-tert-butyl 2-methyl piperazine-1,2,4-tricarboxylate | 8.7 mmol, 3 g | N1([C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)OC(C)(C)C | C16H28N2O6
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | THF | 26 mmol, 8.7 ml | C1CCOC1 | C4H8O
catalyst | titanium tetraisopropoxide | 2.6 mmol, 0.77 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | (S)-1,4-di-tert-butyl 2-(1-hydroxycyclopropyl)piperazine-1,4-dicarboxylate | OC1(CC1)[C@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H30N2O5
